US08871756B2
7-Bromo-2-(4-chloroquinolin-2-yl)-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one
To a solution of 2,4-dichloroquinoline (196 mg, 1.0 mmol) in dioxane (4 mL) was added 7-bromo-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one (161 mg, 1.0 mmol), followed by tris(dibenzylideneacetone)dipalladium(0) (28 mg, 0.03 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (65 mg, 0.11 mmol), and potassium phosphate tribasic (212 mg, 1.0 mmol). The resultant mixture was refilled with nitrogen and heated at 130° C. overnight. After cooled to room temperature, the mixture was diluted with acetonitrile (10 mL), filtered, and washed with acetonitrile. The filtrate was concentrated under reduced pressure to give a residue which was purified by column chromatography on silica gel (hexane/ethyl acetate/ammonium hydroxide solution, 80:19:1) to give 165 mg of product as a white solid (yield was 42%). MS obsd. (ESI+) [(M+H)+] 401.

reactant | 2,4-dichloroquinoline | 1.0 mmol, 196 mg | ClC1=NC2=CC=CC=C2C(=C1)Cl | C9H5Cl2N
reactant | 7-bromo-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one | 1.0 mmol, 161 mg | BrC=1C=CC2=C(CCC(NC2)=O)C1 | C10H10BrNO
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.11 mmol, 65 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | potassium phosphate tribasic | 1.0 mmol, 212 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.03 mmol, 28 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-Bromo-2-(4-chloroquinolin-2-yl)-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one | 165 mg, yield was 42% | BrC=1C=CC2=C(CCC(N(C2)C2=NC3=CC=CC=C3C(=C2)Cl)=O)C1 | C19H14BrClN2O
